US07238689B2
6.7 g (48.6 mmoles) of anhydrous potassium carbonate and 6.9 g (48.6 mmoles) of methyl iodide were added to a solution of 4.6 g (24.1 mmoles) of 4-trifluoromethylnicotinic acid dissolved in 70 ml of N,N-dimethylformamide. The mixture was stirred at room temperature for 12 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 2.77 g (yield: 56.1%) of methyl 4-trifluoromethylnicotinate as a yellow oily substance.

reactant | potassium carbonate | 48.6 mmoles, 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 48.6 mmoles, 6.9 g | CI | CH3I
reactant | 4-trifluoromethylnicotinic acid | 24.1 mmoles, 4.6 g | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | methyl 4-trifluoromethylnicotinate | 2.77 g, yield: 56.1% | FC(C1=CC=NC=C1C(=O)OC)(F)F | C8H6F3NO2
